US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(3,4,5-trimethoxyphenyl-imino)-4-thiazoline hydrobromide
Obtained by a procedure analogous to that indicated in Example 1(b), from 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(3,4,5-trimethoxyphenyl-imino)-thiazolidin-4-ol hydrobromide, by boiling for 30 minutes in glacial acetic acid and precipitating with diisopropyl ether. Melting point 246° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(3,4,5-trimethoxyphenyl-imino)-thiazolidin-4-ol hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NC1=CC(=C(C(=C1)OC)OC)OC)C)O)S(N(C)C)(=O)=O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(3,4,5-trimethoxyphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC(=C(C(=C1)OC)OC)OC)C)S(N(C)C)(=O)=O | InChI=1S/C21H24ClN3O5S2.BrH/c1-24(2)32(26,27)19-9-13(7-8-15(19)22)16-12-31-21(25(16)3)23-14-10-17(28-4)20(30-6)18(11-14)29-5;/h7-12H,1-6H3;1H
